US05332757
Using an analogous procedure to that described in Example 50, 5-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylsulphonyl]indan-1-one was reacted with hydroxylamine hydrochloride to give (E)-5-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylsulphonyl]indan-1-one oxime in 49% yield, m.p. 225°-226° C.;

reactant | 5-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylsulphonyl]indan-1-one | FC=1C=C(C=C(C1)S(=O)(=O)C=1C=C2CCC(C2=CC1)=O)C1(CCOCC1)OC | C21H21FO5S
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-5-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylsulphonyl]indan-1-one oxime | 49% yield | FC=1C=C(C=C(C1)S(=O)(=O)C=1C=C2CC\C(\C2=CC1)=N/O)C1(CCOCC1)OC | C21H22FNO5S
